US07829707B2
1-[(5-Fluoro-1H-indol-3-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
3-Amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride (0.10 g, 0.52 mmol) was dissolved in methanol (4 mL) and 5-fluoro-1H-indole-3-carboxaldehyde (0.10 g, 0.63 mmol), NaCNBH3 (0.033 g, 0.52 mmol) and Et3N (0.073 g, 0.52 mmol) were added. The resulting mixture was stirred at r.t. overnight. Additional NaCNBH3 (0.01 g) was added and the mixture was heated at 50° C. for 5 h. The reaction mixture was cooled to r.t. and concentrated in vacuo. The crude intermediate was dissolved in CH2Cl2 (3 mL) and methanol (1 mL). Benzoyl isothiocyanate (0.078 mL, 0.58 mmol) was added and after stirring at r.t. for 1 h the mixture was concentrated in vacuo. The residue was dissolved in ammonia (7N in methanol, 3 mL) and heated at 80° C. for 2 h. The solvent was removed in vacuo and after purification by preparative, HPLC, the title compound (0.035 g, 21%) was obtained as a solid.

reactant | 3-Amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride | 0.52 mmol, 0.10 g | Cl.C(C)OC(=O)C=1NC=CC1N
reactant | 5-fluoro-1H-indole-3-carboxaldehyde | 0.63 mmol, 0.10 g | FC=1C=C2C(=CNC2=CC1)C=O | C9H6FNO
reactant | NaCNBH3 | 0.52 mmol, 0.033 g | [BH3-]C#N.[Na+]
reactant | Et3N | 0.52 mmol, 0.073 g | CCN(CC)CC | C6H15N
reactant | NaCNBH3 | 0.01 g | [BH3-]C#N.[Na+]
reactant | Benzoyl isothiocyanate | 0.58 mmol, 0.078 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | methanol | 4 mL | CO | CH4O
product | 1-[(5-Fluoro-1H-indol-3-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.035 g, 21% | FC=1C=C2C(=CNC2=CC1)CN1C(NC(C2=C1C=CN2)=O)=S | C15H11FN4OS
